US09062092B2
Compound 93b. (S)-4-Benzyl-3-((S)-2-cyclopropyl-2-hydroxy-acetyl)-oxazolidin-2-one
A cooled (−78° C.) solution of sodium bis(trimethylsilyl)amide (0.6 M in toluene, 65 mL, 38.918 mmol) was diluted with anhydrous tetrahydrofuran (100 mL) and treated with a solution of (S)-4-benzyl-3-(2-cyclopropyl-acetyl)-oxazolidin-2-one (9.174 g, 35.380 mmol) in anhydrous tetrahydrofuran (50 mL). After stirring at −78° C. for 45 min, the mixture was treated with a solution of 2-benzenesulfonyl-3-phenyl-oxaziridine (11.064 g, 42.456 mmol) in anhydrous tetrahydrofuran (50 mL). After stirring at −78° C. for 55 min, the reaction was quenched with acetic acid (10.1 mL, 176.9 mmol) and allowed to warm to room temperature. The mixture was quenched with sodium bicarbonate solution (300 mL) and poured over dichloromethane/iso-hexanes (3:1, 400 mL). The aqueous layer was extracted with dichloromethane and the organics were combined, washed with saturated sodium thiosulfate, hydrochloric acid (1 M, 300 mL), water and filtered through a phase separator. The volatiles were removed in vacuo and the residue was purified by silica gel chromatography using a 100 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 7:3 followed by silica gel chromatography using a 100 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 4:1 to afford the title compound (7.922 g, 81%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 0.42-0.65 (m, 4H), 1.25-1.38 (m, 1H), 2.88 (dd, J=13.4, 9.6 Hz, 1H), 3.35 (dd, J=13.4, 3.4 Hz, 1H), 3.44 (d, J=8.2 Hz, 1H), 4.25-4.37 (m, 2H), 4.67-4.72 (m, 1H), 4.80 (dd, J=8.0, 6.0 Hz, 1H), 7.21-7.41 (m, 5H). LCMS (m/z) 298.1 [M+Na], Tr=2.27 min.

reactant | sodium bis(trimethylsilyl)amide | 38.918 mmol, 0.6 M, 65 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (S)-4-benzyl-3-(2-cyclopropyl-acetyl)-oxazolidin-2-one | 35.380 mmol, 9.174 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC1CC1)=O | C15H17NO3
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 42.456 mmol, 11.064 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
reactant | acetic acid | 176.9 mmol, 10.1 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (S)-4-Benzyl-3-((S)-2-cyclopropyl-2-hydroxy-acetyl)-oxazolidin-2-one | 7.922 g, 81% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](O)C1CC1)=O | C15H17NO4
